### PR TITLE
[Merged by Bors] - chore: squeeze a few more non-terminal simps

### PR DESCRIPTION
**Pull request by grunweg**
Found by the flexible linter in #28962.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Birkhoff.lean [hunk 1]
```diff
@@ -222,7 +222,7 @@ noncomputable def birkhoffFinset : α ↪o Finset {a : α // SupIrred a} := by
   classical
   -- TODO: This should be a single `simp` call but `simp` refuses to use
   -- `OrderIso.coe_toOrderEmbedding` and `Fintype.coe_finsetOrderIsoSet_symm`
-  simp [birkhoffFinset]
+  simp only [le_eq_subset, birkhoffFinset, Set.le_eq_subset, RelEmbedding.coe_trans, comp_apply]
   rw [OrderIso.coe_toOrderEmbedding, Fintype.coe_finsetOrderIsoSet_symm]
   simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Birkhoff.lean]:
```suggestion
  simp [birkhoffFinset, (OrderIso.coe_toOrderEmbedding)]
```

File: Mathlib/Order/Birkhoff.lean [hunk 2]
```diff
@@ -234,7 +234,10 @@ noncomputable def birkhoffFinset : α ↪o Finset {a : α // SupIrred a} := by
 
 @[simp] lemma birkhoffSet_apply [OrderBot α] (a : α) :
     birkhoffSet a = OrderIso.lowerSetSupIrred a := by
-  simp [birkhoffSet]; have : Subsingleton (OrderBot α) := inferInstance; convert rfl
+  simp only [Set.le_eq_subset, birkhoffSet, not_isEmpty_of_nonempty, ↓reduceDIte,
+    RelEmbedding.coe_trans, RelEmbedding.coe_mk, Embedding.coeFn_mk, OrderIso.coe_toOrderEmbedding,
+    comp_apply, SetLike.coe_set_eq]
+  have : Subsingleton (OrderBot α) := inferInstance; convert rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Birkhoff.lean]: This also works:
```suggestion
  have : Subsingleton (OrderBot α) := inferInstance
  simp [birkhoffSet, this.allEq]
```

File: Mathlib/Order/Interval/Set/LinearOrder.lean [hunk 3]
```diff
@@ -211,9 +211,9 @@ theorem Ioo_union_Ioi' (h₁ : c < b) : Ioo a b ∪ Ioi c = Ioi (min a c) := by
     tauto
 
 theorem Ioo_union_Ioi (h : c < max a b) : Ioo a b ∪ Ioi c = Ioi (min a c) := by
-  rcases le_total a b with hab | hab <;> simp [hab] at h
-  · exact Ioo_union_Ioi' h
-  · rw [min_comm]
+  rcases le_total a b with hab | hab
+  · simp only [hab, sup_of_le_right] at h; exact Ioo_union_Ioi' h
+  · simp [hab] at h; rw [min_comm]
     simp [*, min_eq_left_of_lt]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Interval/Set/LinearOrder.lean]: How about
```suggestion
  · rw [min_comm]
    simp_all [min_eq_left_of_lt]
```

File: Mathlib/Order/Interval/Set/LinearOrder.lean [hunk 4]
```diff
@@ -349,9 +349,10 @@ theorem Iic_union_Ioc' (h₁ : c < b) : Iic b ∪ Ioc c d = Iic (max b d) := by
     tauto
 
 theorem Iic_union_Ioc (h : min c d < b) : Iic b ∪ Ioc c d = Iic (max b d) := by
-  rcases le_total c d with hcd | hcd <;> simp [hcd] at h
-  · exact Iic_union_Ioc' h
+  rcases le_total c d with hcd | hcd
+  · simp only [hcd, inf_of_le_left] at h; exact Iic_union_Ioc' h
   · rw [max_comm]
+    simp [hcd] at h
     simp [*, max_eq_right_of_lt h]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Interval/Set/LinearOrder.lean]: Or
```suggestion
    simp_all [max_eq_right_of_lt]
```

File: Mathlib/Order/Interval/Set/LinearOrder.lean [hunk 5]
```diff
@@ -371,9 +372,9 @@ theorem Iio_union_Ioo' (h₁ : c < b) : Iio b ∪ Ioo c d = Iio (max b d) := by
     exact fun h₂ => ⟨h₁.trans_le hba, h₂⟩
 
 theorem Iio_union_Ioo (h : min c d < b) : Iio b ∪ Ioo c d = Iio (max b d) := by
-  rcases le_total c d with hcd | hcd <;> simp [hcd] at h
-  · exact Iio_union_Ioo' h
-  · rw [max_comm]
+  rcases le_total c d with hcd | hcd
+  · simp only [hcd, inf_of_le_left] at h; exact Iio_union_Ioo' h
+  · simp [hcd] at h; rw [max_comm]
     simp [*, max_eq_right_of_lt h]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Interval/Set/LinearOrder.lean]:
```suggestion
  · rw [max_comm]
    simp_all [max_eq_right_of_lt]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by grunweg** [comment]
Thanks for the really quick review, and the further improvements!

File: Mathlib/Order/Interval/Set/LinearOrder.lean [hunk 6]
```diff
@@ -211,10 +211,10 @@ theorem Ioo_union_Ioi' (h₁ : c < b) : Ioo a b ∪ Ioi c = Ioi (min a c) := by
     tauto
 
 theorem Ioo_union_Ioi (h : c < max a b) : Ioo a b ∪ Ioi c = Ioi (min a c) := by
-  rcases le_total a b with hab | hab <;> simp [hab] at h
-  · exact Ioo_union_Ioi' h
+  rcases le_total a b with hab | hab
+  · simp only [hab, sup_of_le_right] at h; exact Ioo_union_Ioi' h
   · rw [min_comm]
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Set/LinearOrder.lean:216]: Add the `min_comm` to the simp instead?

File: Mathlib/Order/Interval/Set/LinearOrder.lean [hunk 7]
```diff
@@ -371,10 +371,10 @@ theorem Iio_union_Ioo' (h₁ : c < b) : Iio b ∪ Ioo c d = Iio (max b d) := by
     exact fun h₂ => ⟨h₁.trans_le hba, h₂⟩
 
 theorem Iio_union_Ioo (h : min c d < b) : Iio b ∪ Ioo c d = Iio (max b d) := by
-  rcases le_total c d with hcd | hcd <;> simp [hcd] at h
-  · exact Iio_union_Ioo' h
+  rcases le_total c d with hcd | hcd
+  · simp only [hcd, inf_of_le_left] at h; exact Iio_union_Ioo' h
   · rw [max_comm]
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Set/LinearOrder.lean:376]: Same here

**Review by YaelDillies — COMMENTED** [review]
I wonder whether you could replace most of the proofs with `by ext; simp_all`, potentially with a case split somewhere

**Comment by adomani** [comment]
Thanks!

If you manage to include Yaël's `min_comm` suggestion, please do!  In either case, these all look like improvements to me!

bors d+

**Comment by grunweg** [comment]
Thanks for the quick review. Since the suggestions do not work as-is, I'll merge as it is.
bors merge

**Comment by grunweg** [comment]
I also wonder about golfing these proofs, but it's not obvious... so I'll leave this to future readers.
